US05051423
N-[2-[(Phenylmethyl)amino]ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide hydrochloride
To a solution of 13.09 g (27.3 mmol) N-[2-[bis(phenylmethyl)amino]ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide in 75 mL 80% aqueous methanol is added 27.3 mL 1 N HCl and 1.6 g 10% palladium on charcoal. The solution is hydrogenated at 50 psi for 75 minutes. After this time, the reaction mixture is diluted with 100 mL methanol, filtered and the solvents are evaporated to yield the title compound.

reactant | N-[2-[bis(phenylmethyl)amino]ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide | 27.3 mmol, 13.09 g | C1(=CC=CC=C1)CN(CCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)CCC)CC1=CC=CC=C1 | C27H33N3O3S
reactant | HCl | 1 N, 27.3 mL | Cl | ClH
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium on charcoal | 1.6 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | N-[2-[(Phenylmethyl)amino]ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C1(=CC=CC=C1)CNCCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)CCC | InChI=1S/C20H27N3O3S.ClH/c1-3-14-23(15-13-21-16-17-7-5-4-6-8-17)20(24)18-9-11-19(12-10-18)22-27(2,25)26;/h4-12,21-22H,3,13-16H2,1-2H3;1H
